US09216988B2
In a flask, N-[(4-bromophenyl)methyl]-1-phenyl-methanesulfonamide (2.79 g, 8.20 mmol), chloro(2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl)[2-(2 aminoethylphenyl)]palladium(II), methyl-t-butylether adduct (60 mg, 0.082 mmol), 2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl (39 mg, 0.0820 mmol) and sodium tert-butoxide (1.22 g, 12.3 mmol) were combined and purged with nitrogen. 1,4-Dioxane (40 mL) and 1-piperazin-1-ylethanone (1.58 g, 12.3 mmol) were then added and the reaction was stirred at ambient temperature for 16 hours. The precipitate was collected by filtration, washed with DCM and then with water and dried under vacuum overnight to give N-[[4-(4-acetylpiperazin-1-yl)phenyl]methyl]-1-phenyl-methanesulfonamide (1.52 g, 48% yield). LCMS (m/z) ES+ 388.2 [M+1]+.

reactant | N-[(4-bromophenyl)methyl]-1-phenyl-methanesulfonamide | 8.20 mmol, 2.79 g | BrC1=CC=C(C=C1)CNS(=O)(=O)CC1=CC=CC=C1 | C14H14BrNO2S
reactant | methyl-t-butylether | 0.082 mmol, 60 mg | COC(C)(C)C | C5H12O
reactant | sodium tert-butoxide | 12.3 mmol, 1.22 g | CC(C)([O-])C.[Na+]
reactant | 1-piperazin-1-ylethanone | 12.3 mmol, 1.58 g | N1(CCNCC1)C(C)=O | C6H12N2O
catalyst | 2-dicyclohexylphosphino-2′,6′-di-i-propoxy-1,1′-biphenyl | 0.0820 mmol, 39 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
solvent | 1,4-Dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | N-[[4-(4-acetylpiperazin-1-yl)phenyl]methyl]-1-phenyl-methanesulfonamide | 1.52 g, 48% yield | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)CNS(=O)(=O)CC1=CC=CC=C1 | C20H25N3O3S
